US03963728
8.5 g. of piperidine and 1.2 g. of the sodium salt of 3-hydroxypyridine are added to 100 ml. of ethyl acetate, and 28.5 g. of benzyloxycarbonylglycine phenyl ester is added thereto with stirring at room temperature, whereupon reaction immediately starts and is complete in 2 hours. The product is worked up as previously described to give an oil which is crystallized from acetone-water. 18.7 g. of N-(benzyloxycarbonylglycyl)-piperidine are obtained (yield: 68%). m.p. 111° - 112°C. A single spot is obtained therefrom by thin layer chromatography. An additional 5.9 g. of crystals are obtained from the mother liquor, (yield: 21%). m.p. 109.5° - 112°C.

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | sodium | [Na] | Na
reactant | 3-hydroxypyridine | OC=1C=NC=CC1 | C5H5NO
reactant | benzyloxycarbonylglycine phenyl ester | C1(=CC=CC=C1)OC(CNC(=O)OCC1=CC=CC=C1)=O | C16H15NO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(benzyloxycarbonylglycyl)-piperidine | yield: 68% | C(C1=CC=CC=C1)OC(=O)NCC(=O)N1CCCCC1 | C15H20N2O3
